US06297258B1
1-Methyl-1,2,5,6-tetrahydro-pyridine-3-carboxylic Acid[4-(3-bromo-phenylamino)-3-cyano-quinolin-6-yl]-amide
To a solution of 1 g (2.95 mmol) of 6-amino-4-[(3-bromophenyl)amino]-quinoline-3-carbonitrile and 1.9 g (14.7 mmol) of dissopropylethylamine was strirred in 19 ml of tetrahydrofuran and solid N-methyl-1,2,5,6-tetrahydronicotinyl chloride hydrochloride was added portionwise at 0° C. After stirring 1 hr at 0° C. and 2 hr at room temperature, the mixture was poured into saturated sodium bicarbonate and extracted with ethylacetate. The solution was dried over magnesium sulfate. Sovent was removed and the residue was recrystalized from methanol-ethylacetate giving 0.92 g of a yellow powder: mass spectrum (electrospray, m/e,): M+H 462.4, 464.4.

reactant | 6-amino-4-[(3-bromophenyl)amino]-quinoline-3-carbonitrile | 2.95 mmol, 1 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)Br | C16H11BrN4
reactant | N-methyl-1,2,5,6-tetrahydronicotinyl chloride hydrochloride | Cl.CN1CC(CCl)=CCC1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 19 ml | O1CCCC1 | C4H8O
product | 1-Methyl-1,2,5,6-tetrahydro-pyridine-3-carboxylic Acid[4-(3-bromo-phenylamino)-3-cyano-quinolin-6-yl]-amide | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)NC(=O)C=1CN(CCC1)C)C#N | C23H20BrN5O
